US09427475B2
Step C: 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-1-propene
To a stirred suspension of NaH (3.91 g, 60% dispersion in oil, 98 mmol) in DMF (120 mL) at rt was added portionwise 3-(α-L-fucopyranosyl)-1-propene (4.6 g, 24.44 mmol). After 2 hr, to the resulting mixture was added tetrabutyl ammonium iodide (451 mg, 1.22 mmol) and followed by the slow addition of benzyl bromide (13.1 mL, 110 mml) After stirring at rt for 16 hr, the reaction mixture was concentrated and the residue was partitioned between water (300 mL) and Et2O (150 mL). The aqueous layer was extracted with Et2O (3×150 mL). The combined organic layers were washed with brine (100 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (220 g), eluting with 0-40% EtOAc in hexanes to give the title compound. 1H NMR (CDCl3, 400 MHz) δ 1.34 (d, J=6.6, 3H), 2.33 (m, 1H), 2.42 (m, 1H), 3.82 (m, 3H), 3.99 (m, 1H), 4.12 (m, 1H), 4.58 (d, J=11.8, 1H), 4.64 (d, J=11.8, 2H), 4.69 (d, J=12.0, 1H), 4.76 (dd, J=12.0, 8.9, 2H), 5.05, 5.07 and 5.11 (m, 2H), 5.80 (m, 1H), 7.30-7.40 (m, 15H).

reactant | NaH | 98 mmol, 3.91 g | [H-].[Na+]
reactant | 3-(α-L-fucopyranosyl)-1-propene | 24.44 mmol, 4.6 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CC=C | C9H16O4
reactant | benzyl bromide | 13.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 120 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutyl ammonium iodide | 1.22 mmol, 451 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(2,3,4-tri-O-benzyl-α-L-fucopyranosyl)-1-propene | C(C1=CC=CC=C1)O[C@@H]1[C@@H](O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C)CC=C | C30H34O4
